US04415572
A suspension of 1.0 g of 6-(1-piperazinyl)-3,4-dihydrocarbostyril monohydrobromide in 10 ml of DMF was added 296 mg of sodium hydrogencarbonate and stirred at room temperature for 30 minutes to convert the compound to 6-piperazinyl-3,4-dihydrocarbostyril, to which was added 0.62 ml of triethylamine. Then, a solution of 605 mg of 4-acetyloxybenzoyl chloride in 5 ml of DMF was slowly added dropwise to the mixture. After completion of addition, the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into a large amount of water and extracted with chloroform. The extract was washed serially with saturated aqueous sodium hydrogencarbonate solution and with water and then dried over anhydrous sodium sulfate. Chloroform was distilled off to give 6-[4-(4-acetyloxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril.

reactant | 6-(1-piperazinyl)-3,4-dihydrocarbostyril monohydrobromide | 1.0 g | Br.N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O
reactant | sodium hydrogencarbonate | 296 mg | C(O)([O-])=O.[Na+]
reactant | 6-piperazinyl-3,4-dihydrocarbostyril | N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O | C13H17N3O
reactant | 4-acetyloxybenzoyl chloride | 605 mg | C(C)(=O)OC1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.62 ml | C(C)N(CC)CC | C6H15N
product | 6-[4-(4-acetyloxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | C(C)(=O)OC1=CC=C(C(=O)N2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=C1 | C22H23N3O4
